US08865712B2
i) N-[1-(2-Bromo-pyridin-4-yl)-2-hydroxy-1-hydroxymethyl-ethyl]-2-chloro-acetamide
A solution of N-[5-(2-bromo-pyridin-4-yl)-2,2-dimethyl-[1,3]dioxan-5-yl]-2-chloro-acetamide (10.0 g, 27.6 mmol) in DCM (150 ml) was cooled to 0° C. for 10 min. and trifluoromethyl acetic acid (15.0 ml) was added. Stirring continued for 2 h and the resultant contents were concentrated under reduced pressure. The residue formed was basified with aq. NH4OH solution and the product was extracted with ethyl acetate (3×200 ml) by washing organic layer with brine (5.0 ml) and dried over anhy. Na2SO4. Organic layer was concentrated under reduced pressure to obtain title compound as a brown liquid which was carried to next step without any purification. Yield=8.1 g (91%). TLC (70% ethyl acetate in hexane) Rf=0.15; LCMS: RtH8=0.12 [M+1]+=322.9 and 324.9; HPLC RtH9=5.266 min (61%), 5.104 (25%).

reactant | N-[5-(2-bromo-pyridin-4-yl)-2,2-dimethyl-[1,3]dioxan-5-yl]-2-chloro-acetamide | 27.6 mmol, 10.0 g | BrC1=NC=CC(=C1)C1(COC(OC1)(C)C)NC(CCl)=O | C13H16BrClN2O3
reactant | trifluoromethyl acetic acid | 15.0 ml | FC(F)(F)CC(=O)O | C3H3F3O2
reactant | NH4OH | [NH4+].[OH-]
solvent | DCM | 150 ml | C(Cl)Cl | CH2Cl2
product | N-[1-(2-Bromo-pyridin-4-yl)-2-hydroxy-1-hydroxymethyl-ethyl]-2-chloro-acetamide | BrC1=NC=CC(=C1)C(CO)(CO)NC(CCl)=O | C10H12BrClN2O3
